US07405236B2
b] Methyl-[3-(4-trifluoromethoxy-phenyl)-prop-2-ynyl]-carbamic acid tert-butyl ester
[3-(4-Trifluoromethoxy-phenyl)-prop-2-ynyl]-carbamic acid tert-butyl ester (500 mg, 1.6 mmol) was added to an ice cold solution of iodomethane (100 μl, 1.7 mmol) and sodium hydride (73 mg, 1.7 mmol; 55% suspension in mineral oil) in DMF (5 ml). The reaction mixture was stirred for 5 h at ambient temperature, cooled to 0° C. and carefully quenched with saturated aqueous ammonium chloride solution. Ice water/ethyl acetate 1/1 were added, the layers were separated and the aqueous layer was extracted two times with ethyl acetate. The combined extracts were washed with brine and dried over sodium sulfate. The solvent was removed under reduced pressure and the residue was purified by flash chromatography (silica gel, heptane/AcOEt) to give 258 mg (0.8 mmol, 49%) of the title compound as yellow oil.

reactant | [3-(4-Trifluoromethoxy-phenyl)-prop-2-ynyl]-carbamic acid tert-butyl ester | 1.6 mmol, 500 mg | C(C)(C)(C)OC(NCC#CC1=CC=C(C=C1)OC(F)(F)F)=O | C15H16F3NO3
reactant | iodomethane | 1.7 mmol, 100 μl | IC | CH3I
reactant | sodium hydride | 1.7 mmol, 73 mg | [H-].[Na+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | Methyl-[3-(4-trifluoromethoxy-phenyl)-prop-2-ynyl]-carbamic acid tert-butyl ester | 0.8 mmol, 258 mg, 49% | C(C)(C)(C)OC(N(CC#CC1=CC=C(C=C1)OC(F)(F)F)C)=O | C16H18F3NO3
